US04663453
4-Bromo-6-(4-methyl-1-piperazinyl)-9-methyl-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
A solution of N-[2-(5-bromo-1-indolinyl)-5-methylphenyl]-4-methyl-1-piperazinecarboxamide (3.3 g, 7.68 mmoles) and phosphorus oxychloride (30 ml) was heated at reflux for 25 minutes under nitrogen. The solution was cooled and excess phosphorus oxychloride was removed at 55°-60° C. under vacuum. Ice-chilled 2N-sodium hydroxide solution (100 ml) and dichloromethane (250 ml) were added to the residue. The organic phase was separated and washed with brine (2 times, 100 ml), dried over anhydrous magnesium sulfate, and concentrated. Purification was accomplished by flash chromatography over aluminum oxide (Grade III, 100 g), eluted with dichloromethane (2 l). The fractions containing pure material were pooled and concentrated. Recrystallization from isopropanol (30 ml) yielded 1.7 g (53.9%) of product, mp 187°-189° C.

reactant | N-[2-(5-bromo-1-indolinyl)-5-methylphenyl]-4-methyl-1-piperazinecarboxamide | 7.68 mmoles, 3.3 g | BrC=1C=C2CCN(C2=CC1)C1=C(C=C(C=C1)C)NC(=O)N1CCN(CC1)C | C21H25BrN4O
solvent | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Bromo-6-(4-methyl-1-piperazinyl)-9-methyl-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 1.7 g, 53.9% | BrC=1C=C2C3=C(C(=NC4=C(N3CC2)C=CC(=C4)C)N4CCN(CC4)C)C1 | C21H23BrN4
